US07576115B2
Synthesis of 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene
Dimethyl sulfoxide (0.050 mL, 0.70 mmol) in dichloromethane (0.28 mL) was added to oxalyl chloride (0.049 mL, 0.56 mmol) in dichloromethane (2.8 mL) at −78° C., and after 10 minutes of stirring at −78° C., 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-hydroxymethylthiophene (87 mg, 0.28 mmol) in dichloromethane (0.93 mL) was added dropwise. After the addition, the reaction solution was stirred at −78° C. for 20 minutes and at −40 to −50° C. for 1 hour. Triethylamine (0.28 mL, 2.0 mmol) was added dropwise, and the reaction solution was stirred for another 20 minutes under cooling with ice. After addition of saturated aqueous ammonium chloride, the reaction solution was extracted with chloroform, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated to give the desired product as a brown oil (58 mg, yield 68%).

reactant | Dimethyl sulfoxide | 0.70 mmol, 0.050 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.56 mmol, 0.049 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-hydroxymethylthiophene | 0.28 mmol, 87 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)CO | C17H22O3S
reactant | Triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 0.28 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.93 mL | ClCCl | CH2Cl2
product | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene | 58 mg, yield 68% | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)C=O | C17H20O3S
